US05039805
For the preparation of the ester starting material, MS: 468 (18, M+NH4), 451 (100, M+H), N-(t-butoxycarbonyl)-β-alanine and 5-amino-2-nitrobenzoic acid are reacted to give 5-[3-(1-t-butoxyformamido)propionamido]-2-nitrobenzoic acid, MS: 354 (17, M+H), the latter is reacted with β-alanine t-butyl ester to give N-[5-[3-(1-t-butoxyformamido)propionamido]-2-nitrobenzoyl]-β-alanine t-butyl ester and this is hydrogenated on Pd/C in ethanol.

reactant | N-(t-butoxycarbonyl)-β-alanine | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | 5-amino-2-nitrobenzoic acid | NC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H6N2O4
product | 5-[3-(1-t-butoxyformamido)propionamido]-2-nitrobenzoic acid | C(C)(C)(C)OC(=O)NCCC(=O)NC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C15H19N3O7
